US09260435B2
2-[4-(1-Aminocyclobutyl)phenyl]-3-phenylimidazo[1,2-a]pyrazine-6-carboxamide
A solution of ethyl 2-(4-{1-[(tert-butoxycarbonyl)amino]cyclobutyl}phenyl)-3-phenylimidazo[1,2-a]pyrazine-6-carboxylate [Int-5] (70 mg, 0.14 mmol, 1.0 eq) in 2.0 mL ammonia (7M solution in methanol, ˜100 eq) was heated to 130° C. for 5 h in a single mode microwave oven. The volatile components were removed by the use of a rotary evaporator. The crude amide detected by UPLC was directly forwarded to the deprotection step. Therefore, the raw material was dissolved in 1.3 mL DCM/methanol (5/3) and 0.61 mL of 4 M hydrogenchloride in dioxane were added. The solution was stirred overnight at room temperature. The mixture was poured onto ice, made alkaline with aqueous sodium hydroxide (2 N) and extracted with DCM. The combined organic phases were washed with brine and dried with sodium sulphate. The solvent was using a rotary evaporator and the crude material was purified via MPLC (Biotage Isolera, 25 g Snap-cartridge; eluent: hexane/ethyl acetate (1/1)→ethyl acetate) to deliver 20 mg (40%) of the title compound.

reactant | ethyl 2-(4-{1-[(tert-butoxycarbonyl)amino]cyclobutyl}phenyl)-3-phenylimidazo[1,2-a]pyrazine-6-carboxylate | 0.14 mmol, 70 mg, 1.0 eq | C(C)(C)(C)OC(=O)NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(N=C2)C(=O)OCC)C1C1=CC=CC=C1 | C30H32N4O4
reactant | ammonia | 7M, 2.0 mL, ˜100 eq | N | H3N
product | 2-[4-(1-Aminocyclobutyl)phenyl]-3-phenylimidazo[1,2-a]pyrazine-6-carboxamide | NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(N=C2)C(=O)N)C1C1=CC=CC=C1 | C23H21N5O
